US07531553B2
Preparation XXXVI: 4-(2-Chloro-5-nitro-phenoxymethyl)-1-isopropyl-piperidine
4-(2-Chloro-5-nitro-phenoxymethyl)-piperidine (7 g, 25.9 mmol) was dissolved in CH3CN (50 mL) and acetone (9.48 ml, 129 mmol) was added. NaBH3CN (2.6 g, 41.4 mmol) was added. After 14 h, the mixture was concentrated in vacuo and the residue was dissolved in EtOAc, washed with brine. The EtOAc portion was dried with Na2SO4, and evaporated. The title compound was purified by column chromatography using 0-75% of a 90:10:1 (CH2Cl2:MeOH: NH4OH) solution as the eluent to yield a yellow solid. MS(MH+)=NA; Calc'd 312.12 for C15H21ClN2O3.

reactant | 4-(2-Chloro-5-nitro-phenoxymethyl)-piperidine | 25.9 mmol, 7 g | ClC1=C(OCC2CCNCC2)C=C(C=C1)[N+](=O)[O-] | C12H15ClN2O3
reactant | acetone | 129 mmol, 9.48 ml | CC(=O)C | C3H6O
reactant | NaBH3CN | 41.4 mmol, 2.6 g | [BH3-]C#N.[Na+]
solvent | CH3CN | 50 mL | CC#N | C2H3N
product | 4-(2-Chloro-5-nitro-phenoxymethyl)-1-isopropyl-piperidine | ClC1=C(OCC2CCN(CC2)C(C)C)C=C(C=C1)[N+](=O)[O-] | C15H21ClN2O3
